US07754737B2
To a stirred solution of 1-chloro-2-fluoro-benzene (13.0 g, 0.1 mol) in THF (250 mL) at −75° C. was added dropwise 2.5 M BuLi in hexane (40 mL, 0.1 mol) during 45 min. After additional stirring for 30 min at −75° C., a solution of (R)-tert-butyl 3-(methoxy(methyl)-carbamoyl)piperidine-1-carboxylate (21.76 g, 0.08 mol) in THF (100 mL) was added dropwise over 30 min. The mixture was allowed to warm from −70° C. to 0° C. The mixture was quenched with sat'd aq NH4Cl, extracted with EtOAc (3×) and the combined organic layers were dried over Na2SO4. Solvent removal and flash column chromatography, eluting with 5% EtOAc/PE afforded (R)-tert-butyl 3-(3-chloro-2-fluorobenzoyl)piperidine-1-carboxylate (19.2 g, 70%). 1H NMR (400 MHz, CDCl3): 1.45 (s, 9H), 1.63 (m, 2H), 1.76 (m, 1H), 2.06 (m, 1H), 2.87 (m, 1H), 3.15 (m, 1H), 3.25 (m, 1H), 3.9 (m, 1H), 4.2 (m, 1H), 7.18 (m, 1H), 7.60 (m, 2H). MS (E/Z): 342 (M+H+).

reactant | 1-chloro-2-fluoro-benzene | 0.1 mol, 13.0 g | ClC1=C(C=CC=C1)F | C6H4ClF
reactant | BuLi | 2.5 M | [Li]CCCC
reactant | hexane | 0.1 mol, 40 mL | CCCCCC | C6H14
reactant | (R)-tert-butyl 3-(methoxy(methyl)-carbamoyl)piperidine-1-carboxylate | 0.08 mol, 21.76 g | CON(C(=O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C)C | C13H24N2O4
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 3-(3-chloro-2-fluorobenzoyl)piperidine-1-carboxylate | 19.2 g, 70% | ClC=1C(=C(C(=O)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C=CC1)F | C17H21ClFNO3
